US05095014
3-(2-Chloro-4-fluorophenoxy)-1-azetidinecarbonyl chloride
A stirred solution of 9.0 g (0.09 mole) of phosgene in 200 mL of methylene chloride under nitrogen was treated with 12.5 g (0.09 mole) of anhydrous potassium carbonate and stirred for 30 min. The reaction mixture was cooled in an ice bath while 28 g (0.08 mole) of 3-(2-chloro-4-fluorophenoxy)-1-(diphenylmethyl)azetidine in 100 mL of methylene chloride was added dropwise. After stirring for 16 hr at ambient temperature the reaction mixture was cooled to 0° C. in an ice water bath and small pieces of ice were added to destroy the excess phosgene, being careful to control the evolution of carbon dioxide gas. When the evolution of gas ceased, the reaction mixture was decanted from the inorganic slurry, dried (filtered through Whatman PS paper) and concentrated in vacuo, 41.9 g. Upon standing, a semisolid residue formed and the solid was collected by filtration after trituration with hexane to obtain 13.2 g (62.5%). A sample was recrystallized from hexane for analysis yielding fine white crystals, mp 93°-94° C.

reactant | phosgene | 0.09 mole, 9.0 g | C(=O)(Cl)Cl | CCl2O
reactant | potassium carbonate | 0.09 mole, 12.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(2-chloro-4-fluorophenoxy)-1-(diphenylmethyl)azetidine | 0.08 mole, 28 g | ClC1=C(OC2CN(C2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=CC(=C1)F | C22H19ClFNO
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Chloro-4-fluorophenoxy)-1-azetidinecarbonyl chloride | ClC1=C(OC2CN(C2)C(=O)Cl)C=CC(=C1)F | C10H8Cl2FNO2
